US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-b]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-2(1H)-quinoxalinone Fumarate
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride (60 mg; 0.166 mmol) and 2,3-dihydro[1,4]dioxino[2,3-b]pyridine-7-carbaldehyde (for a synthesis see WO 2003/087098 Example 20(e)) (33 mg, 0.197 mmol) in MeOH (3 ml), chloroform (3 ml) and triethylamine (0.06 ml) was heated under reflux with 3A molecular sieves overnight. It was cooled and sodium triacetoxyborohydride (0.11 g; 0.52 mmol) was added, and the mixture was stirred at rt for 7 h. Sodium triacetoxyborohydride (0.1 μg) was added and the mixture was stirred for another 5 days, with addition of two more portions of triacetoxyborohydride (0.11 g). Aqueous sodium bicarbonate solution was added to basify and the aqueous phase was extracted several times with 10% MeOH/DCM. The organic fractions were dried and evaporated. Chromatography on silica gel, eluting with 0-20% MeOH-DCM gave the free base of the title compound (20 mg, 27%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride | 0.166 mmol, 60 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)F)=O
reactant | 2,3-dihydro[1,4]dioxino[2,3-b]pyridine-7-carbaldehyde | O1CCOC2=NC=C(C=C21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 0.52 mmol, 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triacetoxyborohydride | 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 3 ml | CO | CH4O
catalyst | Sodium triacetoxyborohydride | 0.1 μg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-b]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-2(1H)-quinoxalinone Fumarate | 20 mg, 27% | C(\C=C\C(=O)O)(=O)O.O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=NC1=CC=C(C=C21)F)=O | InChI=1S/C23H26FN5O3.C4H4O4/c24-17-1-2-19-20(12-17)29(22(30)15-26-19)8-7-28-5-3-18(4-6-28)25-13-16-11-21-23(27-14-16)32-10-9-31-21;5-3(6)1-2-4(7)8/h1-2,11-12,14-15,18,25H,3-10,13H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
